US05965560
Step B: Preparation of 1-(2-chloro-3-methylphenyl)-4-(3,4,5-trimethoxybenzyl)piperazine
A solution of aluminum chloride (0.279 g, 2.09 mmol) in anhydrous diethyl ether (20 mL) is added dropwise to a suspension of lithium aluminum hydride (0.238 g, 6.27 mmol) in anhydrous tetrahydrofuran (20 mL) at 0° C. and stirred for 0.5 hour. To this mixture is added dropwise a solution of [4-(2-chloro-3-methylphenyl)piperazine-1-yl]-(3,4,5-trimethoxy-phenyl)methanone (2.12 g, 5.23 mmol) in anhydrous tetrahydrofuran (20 mL). The suspension is stirred for 2 hours at 0° C., followed by dropwise addition of 2N sodium hydroxide. The mixture is filtered through Celite and concentrated in vacuo. The resulting product is purified by MPLC on silica gel eluting with 40% ethyl acetate/hexane to give 1.74 g of the title compound as a white solid; mp 112-113° C.

reactant | aluminum chloride | 2.09 mmol, 0.279 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 6.27 mmol, 0.238 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [4-(2-chloro-3-methylphenyl)piperazine-1-yl]-(3,4,5-trimethoxy-phenyl)methanone | 5.23 mmol, 2.12 g | ClC1=C(C=CC=C1C)N1CCN(CC1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C21H25ClN2O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(2-chloro-3-methylphenyl)-4-(3,4,5-trimethoxybenzyl)piperazine | 1.74 g | ClC1=C(C=CC=C1C)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | C21H27ClN2O3
